US09428452B2
Preparation of 3-cyclopropyl-N-(2,4-dimethylphenyl)-N-isobutyl-4-((tetrahydro-2H-pyran-4-yl)methoxy)benzenesulfonamide (Example 21)
To a suspension of 3-chloro-N-(2,4-dimethylphenyl)-N-isobutyl-4-((tetrahydro-2H-pyran-4-yl)methoxy)benzenesulfonamide (100 mg, 0.215 mmol), cyclopropylboronic acid (46.1 mg, 0.536 mmol), tricyclohexylphosphine (12.03 mg, 0.043 mmol) and tripotassium phosphate (137 mg, 0.644 mmol) in toluene (4 mL) and water (0.2 mL), was added palladium(II) acetate (approximately 4.82 mg, 0.021 mmol) ensuring all particles were below solvent level. The reaction vessel was sealed and heated by microwaves (Emrys Optimiser) to 120° C. for 30 minutes. After cooling, the reaction mixture was passed through a pre-packed silica column (500 mg) to remove palladium residues, eluting with methanol. The reaction solution was evaporated in vacuo to and purified by mass directed autoprep (formic acid modifier). The appropriate fractions were concentrated under a stream of nitrogen to give the required product, 34 mg. LCMS [LCMS1] Rt 1.55 min, m/z (ES+) 472 (M+H).

reactant | 3-chloro-N-(2,4-dimethylphenyl)-N-isobutyl-4-((tetrahydro-2H-pyran-4-yl)methoxy)benzenesulfonamide | 0.215 mmol, 100 mg | ClC=1C=C(C=CC1OCC1CCOCC1)S(=O)(=O)N(CC(C)C)C1=C(C=C(C=C1)C)C | C24H32ClNO4S
reactant | cyclopropylboronic acid | 0.536 mmol, 46.1 mg | C1(CC1)B(O)O | C3H7BO2
reactant | tricyclohexylphosphine | 0.043 mmol, 12.03 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | tripotassium phosphate | 0.644 mmol, 137 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 0.2 mL | O | H2O
catalyst | palladium(II) acetate | 0.021 mmol, approximately 4.82 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-cyclopropyl-N-(2,4-dimethylphenyl)-N-isobutyl-4-((tetrahydro-2H-pyran-4-yl)methoxy)benzenesulfonamide | C1(CC1)C=1C=C(C=CC1OCC1CCOCC1)S(=O)(=O)N(CC(C)C)C1=C(C=C(C=C1)C)C | C27H37NO4S
